US05475013
Preparation of 1-(4-Pyridylmethyl)cyclopentanecarboxylic Acid.
To a suspension of 3.69 g (123 mmol) of 80% sodium hydride in 150 mL of anhydrous tetrahydrofuran and 11.6 g (115 mmol) of diisopropylamine, at 0° C. was added 12.82 g (112 mmol) of cyclopentanecarboxylic acid. This was then heated at reflux for 15 minutes, cooled to 0° C. and 45 mL of 2.5M n-butyllithium in hexane added. After 15 minutes at 0° C. and 30 minutes at 35° C., the mixture was recooled to 0° C. and a solution of 14.4 g (112 mmol) of 4-chloromethylpyridine (freshly prepared from 4-chloromethylpyridine hydrochloride by neutralization with aqueous sodium bicarbonate, extraction with hexane, drying and concentrating) was added. After 30 minutes at 0° C. and 60 minutes at 35° C., the mixture was cooled to 0° C., water carefully added and extracted twice with diethyl ether. The aqueous layer was acidified to pH 3 with 6N hydrochloric acid whereupon a precipitate formed. The pH was adjusted to 5.9 with 10% sodium hydroxide and the solids collected. Recrystallization from hot ethanol and hexane afforded 5.7 g of desired product, m/e 206 (M +

reactant | sodium hydride | 123 mmol, 3.69 g | [H-].[Na+]
reactant | diisopropylamine | 115 mmol, 11.6 g | C(C)(C)NC(C)C | C6H15N
reactant | cyclopentanecarboxylic acid | 112 mmol, 12.82 g | C1(CCCC1)C(=O)O | C6H10O2
reactant | n-butyllithium | 2.5M, 45 mL | C(CCC)[Li]
reactant | 4-chloromethylpyridine | 112 mmol, 14.4 g | ClCC1=CC=NC=C1 | C6H6ClN
reactant | 4-chloromethylpyridine hydrochloride | Cl.ClCC1=CC=NC=C1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-(4-Pyridylmethyl)cyclopentanecarboxylic Acid | 5.7 g | N1=CC=C(C=C1)CC1(CCCC1)C(=O)O | C12H15NO2
